US04413010
4-chloro-o-cresol and 4-bromoanisole yield p-(p-chloro-o-tolyloxy)anisole of b.p. 112°-116° C./0.04 Torr and reaction with hydrobromic acid/acetic acid yields p-(p-chloro-o-tolyloxy)phenol; m.p. 83°-85° C.;

reactant | p-(p-chloro-o-tolyloxy)anisole | ClC1=CC(=C(C=C1)C)OC1=CC=C(C=C1)OC | C14H13ClO2
reactant | hydrobromic acid acetic acid | Br.C(C)(=O)O
product | p-(p-chloro-o-tolyloxy)phenol | ClC1=CC(=C(C=C1)C)OC1=CC=C(C=C1)O | C13H11ClO2
